US06599902B2
To a solution of 2-(2-oxo-2,3-dihydro-1H-indole-5-sulfonylmethyl)-benzonitrile (100 mg, 0.32 mmol) and 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (79 mg, 0.32 mmol) in ethanol (4 mL) was added piperidine (0.1 mL). The reaction mixture was stirred at 25° C. for three days. The solvent was evaporated and the residue was purified on a silica gel column eluting with MeOH—CH2Cl2 10:90 to provide 123 mg (71%) of 2-{3-[1-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonylmethyl}-benzonitrile as a pale orange solid.

reactant | 2-(2-oxo-2,3-dihydro-1H-indole-5-sulfonylmethyl)-benzonitrile | 0.32 mmol, 100 mg | O=C1NC2=CC=C(C=C2C1)S(=O)(=O)CC1=C(C#N)C=CC=C1 | C16H12N2O3S
reactant | 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.32 mmol, 79 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-{3-[1-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonylmethyl}-benzonitrile | 123 mg, 71% | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C#N)C=CC=C1)=O | C29H29N5O4S
